US06858638B2
N-[5-(3-Fluorobenzenesulfonylamino)-1H-indazol-3-yl)acetamide can be obtained in the following way: 0.037 ml of acetyl chloride is added dropwise to a solution, cooled to 0° C., of 0.16 g of 3-fluoro-N-(3-amino-1H-indazol-5-yl)benzenesulfonamide and of 3.2 ml of pyridine. The reaction medium is then maintained with stirring at a temperature in the region of 25° C. overnight. After addition of 20 ml of water, the medium is extracted with three times 10 ml of ethyl acetate. The pooled organic phases are dried over magnesium sulfate, filtered and concentrated by evaporation under reduced pressure. The residue thus obtained is purified by chromatography on a silica column with a dichloromethane/methanol (97.5/2.5 by volume) mixture as eluent. The solid obtained is recrystallized from 6 ml of isopropanol. 0.1 g of N-[5-(3-fluorobenzenesulfonylamino)-1H-indazol-3-yl)acetamide is thus obtained, after drying under reduced pressure at 60° C., in the form of a white solid melting at 246° C. (analysis C15H13FN4O3S.0.2H2O % calculated C, 51.73, H, 3.76; F, 5.45; N, 16.08; O, 13.78; S, 9.20. % found C, 51.75; H, 2.82; F, 5.07; N, 16.04; S, 8.13).

reactant | acetyl chloride | 0.037 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-fluoro-N-(3-amino-1H-indazol-5-yl)benzenesulfonamide | 0.16 g | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)N | C13H11FN4O2S
reactant | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 20 ml | O | H2O
product | N-[5-(3-fluorobenzenesulfonylamino)-1H-indazol-3-yl)acetamide | 0.1 g | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)NC(C)=O | C15H13FN4O3S
